US06930120B2
3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(2-methoxy-phenoxy)-2-methyl-propionic acid
The title compound was prepared using the representative Standard Procedure (E) from 3-(4-Hydroxyphenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester and toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyloxazol-4-yl)-ethyl ester. 1H NMR (400 MHz, CDCl3): δ 7.18 (d, 2H, J=8.21 Hz), 7.06 (t, 1H, J=7.82 Hz), 6.88 (d, 1H, J=8.21 Hz), 6.83-6.79 (m, 3H), 6.62 (d, 1H, J=7.82 Hz), 4.12 (t, 2H, J=6.65 Hz), 3.82 (s, 3H), 3.29 (d, 1H, J=14.08 Hz), 3.09 (d, 1H, J=14.08 Hz), 2.85 (t, 2H, J=6.65 Hz), 2.70-2.63 (m, 1H), 2.21 (s, 3H), 1.99 (d, 2H, J=12.51 Hz), 1.77 (d, 2H, J=12.90 Hz), 1.67 (d, 1H, J=11.73 Hz), 1.50 (q, 2H, J=12.51 Hz), 1.37-1.21 (m, 5H). MS [ES+] m/z exact mass calcd for C29H36NO6 494.2543, found 494.2562.

reactant | 3-(4-Hydroxyphenyl)-2-(2-methoxy-phenoxy)-2-methyl-propionic acid ethyl ester | C(C)OC(C(CC1=CC=C(C=C1)O)(C)OC1=C(C=CC=C1)OC)=O | C19H22O5
reactant | toluene-4-sulfonic acid 2-(2-cyclohexyl-5-methyloxazol-4-yl)-ethyl ester | C1(CCCCC1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C19H25NO4S
product | 3-{4-[2-(2-Cyclohexyl-5-methyl-oxazol-4-yl)-ethoxy]-phenyl}-2-(2-methoxy-phenoxy)-2-methyl-propionic acid | C1(CCCCC1)C=1OC(=C(N1)CCOC1=CC=C(C=C1)CC(C(=O)O)(C)OC1=C(C=CC=C1)OC)C | C29H35NO6
